US07842694B2
Methyl 3-[(1-methylethyl)oxy]-5-[(phenylmethyl)oxy]benzoate
To a solution of methyl 3-hydroxy-5-[(1-methylethyl)oxy]benzoate (25 g) in DMF (250 mL) was added anhydrous potassium carbonate (297 mmol), and benzyl bromide (143 mmol). The mixture was stirred at 60° C. for 5 hours, then cooled to room temperature. The solvent was removed in vacuo and the residue partitioned between ethyl acetate and water. The organics were combined and washed with further water, brine, dried (MgSO4) and concentrated in vacuo to give the desired compound (37 g) which was used without further purification.

reactant | methyl 3-hydroxy-5-[(1-methylethyl)oxy]benzoate | 25 g | OC=1C=C(C(=O)OC)C=C(C1)OC(C)C | C11H14O4
reactant | potassium carbonate | 297 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 143 mmol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | Methyl 3-[(1-methylethyl)oxy]-5-[(phenylmethyl)oxy]benzoate | 37 g | CC(C)OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C18H20O4
